US07241317B2
Step 1: Synthesis of 1-(4-nitrophenyl)-4-(3-pyrrolidin-1-yl-propyl)-[1,4]diazepane (1)
Fluoronitrobenzene (5.56 g, 39.43 mmol) is dissolved in water, and then potassium carbonate (6.55 g, 47.31 mmol) and 1-(3-pyrrolidinopropyl)-homopiperazine (10 g, 47.31 mmol) are added. The medium is heated at 85° for 4 hours and then cooled to room temperature. The medium is filtered and a yellow solid is recovered after drying in a vacuum oven at 45° C. (12.5 g, yield=95.5%).

reactant | Fluoronitrobenzene | 39.43 mmol, 5.56 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 47.31 mmol, 6.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-pyrrolidinopropyl)-homopiperazine | 47.31 mmol, 10 g | N1(CCCC1)CCCN1CCNCCC1 | C12H25N3
solvent | water | O | H2O
product | 1-(4-nitrophenyl)-4-(3-pyrrolidin-1-yl-propyl)-[1,4]diazepane | yield=95.5% | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CCC1)CCCN1CCCC1 | C18H28N4O2
